US08258144B2
6-(5-fluoro-4-(4-(hydroxymethyl)piperidin-1-yl)pyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one
A mixture of 2,4-dichloro-5-fluoropyrimidine (167 mg, 1.00 mmol), 4-piperidinemethanol (115 mg, 1.00 mmol) and DIEA (0.400 mL, 2.30 mmol) in CH3CN (4 mL) was stirred at room temperature for 2 h. It was concentrated in vacuo. The residue was dissolved in nBuOH (6 mL). 3 mL of the nBuOH solution was taken, to which 6-amino-3,4-dihydroquinolin-2(1H)-one (88 mg, 0.54 mmol) was added. The solution was stirred at 116° C. for 20 h. nBuOH was removed in vacuo. The residue was purified by HPLC to give the titled compound (52 mg). MS 372.3 (M+H); UV 208.8, 275.8 nm.

reactant | 2,4-dichloro-5-fluoropyrimidine | 1.00 mmol, 167 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-piperidinemethanol | 1.00 mmol, 115 mg | N1CCC(CC1)CO | C6H13NO
reactant | DIEA | 2.30 mmol, 0.400 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.54 mmol, 88 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
solvent | CH3CN | 4 mL | CC#N | C2H3N
solvent | nBuOH | C(CCC)O | C4H10O
product | 6-(5-fluoro-4-(4-(hydroxymethyl)piperidin-1-yl)pyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | 52 mg | FC=1C(=NC(=NC1)NC=1C=C2CCC(NC2=CC1)=O)N1CCC(CC1)CO | C19H22FN5O2
